US06235731B1
2) Synthesis of 4-[(3-phenylpropan-1-yl)aminomethyl]-piperidine
To a solution of 1.49 g (3.48 mM) of N-(3-phenylpropan-1-yl)-N-[1-tert-butoxycarbonylpiperidin-4-ylmethyl]trifluoroacetamide in ethanol (10 ml) was added 1.0 ml (12 mM) of 12N-hydrochloric acid at room temperature and the mixture was stirred for 20 hours. The solvent was then distilled off under reduced pressure and 3 ml (36 mM) of 12N-hydrochloric acid was added to the residue. This mixture was stirred at room temperature for 20 minutes. To this reaction mixture was added ethanol and the solvent was distilled off under reduced pressure to provide 1.29 g (quantitative) of a crude product as white solid. To a solution of 0.33 g (0.90 mM) of this crude product in ethanol (4 ml) was added 4 ml (4 mM) of 1N-aqueous solution of sodium hydroxide at room temperature and the mixture was stirred for 30 minutes. The ethanol was then distilled off under reduced pressure and the residue was extracted with chloroform. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over MgSO4. The solvent was then distilled off under reduced pressure to provide the title compound.

reactant | N-(3-phenylpropan-1-yl)-N-[1-tert-butoxycarbonylpiperidin-4-ylmethyl]trifluoroacetamide | 3.48 mM, 1.49 g | C1(=CC=CC=C1)CCCN(C(C(F)(F)F)=O)CC1CCN(CC1)C(=O)OC(C)(C)C | C22H31F3N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-[(3-phenylpropan-1-yl)aminomethyl]-piperidine | C1(=CC=CC=C1)CCCNCC1CCNCC1 | C15H24N2
